US06797820B2
To 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-tert-butoxycarbonylpyrrolidin-1-ylcarbonyl)pentane G-2 (5 mmol, 50%) (5 mmol) in methanol (20 mL) was added sodium methoxide (catalytic; pH adjusted to 10) and the solution stirred for 1 hour. Amberlite IR-120 resin (H+ form) was added, then the solution was filtered and concentrated to afford methyl 3-(R)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-yl-carbonyl)-2-(S)-hydroxypropionate G-3 (quant.).

reactant | 1-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)-1-(2-(S)-tert-butoxycarbonylpyrrolidin-1-ylcarbonyl)pentane | CC1(OC(C(O1)=O)C(CCCC)C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C)C | C20H33NO6
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | methyl 3-(R)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-yl-carbonyl)-2-(S)-hydroxypropionate | C(CCC)[C@H]([C@@H](C(=O)OC)O)C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C | C18H31NO6
